* Colpitts oscillator using a BJT
*   The frequency of oscillations for a Colpitts oscillator is determined by 
*   the resonant frequency of the LC tank circuit and is given as:
*   ƒr = 1 / (2π sqrt(L * Ceq))
*   where Ceq is the equivalent capacitance of C1 and C2 in series.
*   Ceq = (C1 * C2) / (C1 + C2)


* https://www.youtube.com/watch?v=Em4a9pKRb2g&t=91s


.include spice_models/NPN_2N2222.mod
.include spice_models/NPN_2N3904.mod

* The capacitors and inductor form the tank circuit, which determines the frequency of oscillation.
*   C1 and C2 which are connected in series and act as a simple voltage divider.
*   When the power supply is firstly applied, capacitors C1 and C2 charge up and then 
*   to the base-emitter junction and appear in the amplified at the collector output.
*   discharge through the coil L1. The oscillations across the capacitors are applied
C1 1 0 24n
L1 1 2 10m
C2 2 0 240n

* C3 acts as a DC-blocking bypass capacitors.
* C3 2 3 1µ


* Q1 3 2 0 2N2222

V1 vcc 0 DC 9
* rx vcc 1 0k

* Resistors, R1 and R2 provide the usual stabilizing DC bias for the transistor 
R1 vcc 3 10k
R2 3 0 4700

* * Qn C B E NPN_model
* Q1 1 3 5 2N2222


* * A radio-frequency choke (RFC) is used in the collector circuit to provide a 
* *   high reactance (ideally open circuit) at the frequency of oscillation, (ƒr) 
* *   and a low resistance at DC to help start the oscillations.
Lrfc vcc 1 200m


* * The required external phase shift is obtained in a similar manner to that in 
* *   the Hartley oscillator circuit with the required positive feedback obtained 
* *   for sustained undamped oscillations.
* *   The amount of feedback is determined by the ratio of C1 and C2. These two 
* *   capacitances are generally “ganged” together to provide a constant amount 
* *   of feedback so that as one is adjusted the other automatically follows.

* Re 5 0 1500
* Ce 5 0 100p

* C4 1 out 1µ

* .tran tstep tstop <tstart <tmax>> <uic>
.tran 1u 10m

********************************************************************************
* Control part
********************************************************************************
.control
run
plot v(vcc) v(2)
.endc

.end

* dx (peak-to-peak) = 0.000116071